US06864265B2
To a solution of 2-[N-(t-butyloxycarbonyl)]amino-cyclohexanone (0.785 g, 3.69 mmol, aniline (0.68 mL, 7.46 mmol) and glacial acetic acid (0.22 mL) in THF (10 mL) was added NaBH(OAc)3 (1.173 g, 5.53 mmol) and the mixture was stirred at 60□ C. overnight. The reaction was cooled to room temperature, diluted with CH2Cl2 (60 mL) and washed with saturated aqueous NaHCO3 (50 mL). The aqueous phase was washed with CH2Cl2 (2×25 mL) and the combined organic extracts dried (Na2SO4), filtered and concentrated under reduced pressure. Purification and separartion of the resultant brown oil by flash chromatography on silica gel (Hexanes/EtOAc, 9:1) afforded the low polarity cis-N-phenyl-N′-(t-butyloxycarbonyl)-cyclohexane-1,2-diamine isomer (0.095 g, 9%) and the high polarity trans-N-phenyl-N′-(t-butyloxycarbonyl)-cyclohexane-1,2-diamine isomer (0.412 g, 39%), both as pale yellow solids.

reactant | 2-[N-(t-butyloxycarbonyl)]amino-cyclohexanone | C(C)(C)(C)OC(=O)NC1C(CCCC1)=O | C11H19NO3
reactant | aniline | 7.46 mmol, 0.68 mL | NC1=CC=CC=C1 | C6H7N
reactant | acetic acid | 0.22 mL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 5.53 mmol, 1.173 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | cis-N-phenyl-N′-(t-butyloxycarbonyl)-cyclohexane-1,2-diamine | 0.095 g, 9% | C1(=CC=CC=C1)N[C@H]1[C@H](CCCC1)NC(=O)OC(C)(C)C | C17H26N2O2
